US08217032B2
[6-Hydroxy-2-(2,4,6-trifluoro-phenyl)-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone
Dissolve [6-methoxy-2-(2,4,6-trifluoro-phenyl)-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone (670 mg, 1.3 mmol) in dichloromethane (10 mL). Cool to 0° C., add 2M HCl (1.3 mL, 2.6 mmol) and stir at room temperature for 15 minutes. Concentrate in vacuo. Redissolve the salt in dichloromethane (10 mL) and cool to 0° C. Add boron tribromide (1.1 g, 3.9 mmol) dropwise and bring to room temperature. Stir reaction for 1.5 hours and pour reaction mixture onto ice, saturated sodium bicarbonate (10 mL) and methanol (10 mL). Extract with dichloromethane, combine extracts and wash with water and saturated sodium bicarbonate. Dry with sodium sulfate, filter, and concentrate in vacuo. Purify by silica gel chromatography using a 1-3% gradient of methanol in dichloromethane to yield 454 mg (70%) of the title compound: mass spectrum (ion spray) m/z=506.3 (M+H).

reactant | [6-methoxy-2-(2,4,6-trifluoro-phenyl)-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone | 1.3 mmol, 670 mg | COC=1C=C2C=CC(=C(C2=CC1)C(=O)C1=CC=C(C=C1)OCCN1CCCCC1)C1=C(C=C(C=C1F)F)F | C31H28F3NO3
reactant | HCl | 2.6 mmol, 2M, 1.3 mL | Cl | ClH
reactant | boron tribromide | 3.9 mmol, 1.1 g | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | methanol | 10 mL | CO | CH4O
product | [6-Hydroxy-2-(2,4,6-trifluoro-phenyl)-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone | 454 mg, 70% | OC=1C=C2C=CC(=C(C2=CC1)C(=O)C1=CC=C(C=C1)OCCN1CCCCC1)C1=C(C=C(C=C1F)F)F | C30H26F3NO3
